US05189054
Scheme I, step d2 : 3-[(phenacyl)amino]-2-carbmethoxy-6-chloro-1-(tert-butyloxycarbonyl)-indole
Mix 3-[(phenacyl)amino]-2-carbmethoxy-6-chloroindole (130 mg, 0.395 mmol), di-tert-butyl dicarbonate (89 mg, 0.395 mmol), tetrahydrofuran (5 mL), dimethylaminopyridine (4 mg) and stir at room temperture overnight. Dilute the reaction with ethyl acetate (25 mL), wash with water, dry over magnesium sulfate, filter and concentrate in vacuo. Recrystallize the residue from ethyl acetate/hexane to yield the title compound as a white fluffy solid (160 mg, 95%).

reactant | 3-[(phenacyl)amino]-2-carbmethoxy-6-chloroindole | 0.395 mmol, 130 mg | C(C(=O)C1=CC=CC=C1)NC1=C(NC2=CC(=CC=C12)Cl)C(=O)OC | C18H15ClN2O3
reactant | di-tert-butyl dicarbonate | 0.395 mmol, 89 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | dimethylaminopyridine | 4 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 3-[(phenacyl)amino]-2-carbmethoxy-6-chloro-1-(tert-butyloxycarbonyl)-indole | C(C(=O)C1=CC=CC=C1)NC1=C(N(C2=CC(=CC=C12)Cl)C(=O)OC(C)(C)C)C(=O)OC | C23H23ClN2O5
